US04617301
[3R-[3α,6α(S*R*),9aα]]-6-[[1-(Ethoxycarbonyl)-3-phenylpropyl]amino]octahydro-1-oxo-5-oxothiazolo[3,2-a]azepine-3-carboxylic acid
To a solution of [3R-[3α,6α(S*R*),9aα]]-6-[[1-(ethoxycarbonyl)-3-phenylpropyl]amino]octahydro-5-oxothiazolo[3,2-a]azepine-3-carboxylic acid hydrochloride (1 mmole) in 50 ml of absolute ethanol at 0° under nitrogen, purified meta-chloroperoxybenzoic acid (1.05 mmole) can be added. The reaction mixture can be stirred for 3 hours at 0° and then absorbed onto a Dowex 50 X-2 ion-exchange column. Elution with ethanol-water (1:1) and then 4% pyridine-water will permit recovery of the product. The product can then be freeze-dried to afford a mixture of diastereomeric sulfoxides which can be separated by preparative chromatography on a reverse-phase column.

reactant | 6-[[1-(ethoxycarbonyl)-3-phenylpropyl]amino]octahydro-5-oxothiazolo[3,2-a]azepine-3-carboxylic acid hydrochloride | 1 mmole | Cl.C(C)OC(=O)C(CCC1=CC=CC=C1)NC1CCCC2N(C1=O)C(CS2)C(=O)O
reactant | meta-chloroperoxybenzoic acid | 1.05 mmole | ClC=1C=C(C(=O)OO)C=CC1 | C7H5ClO3
solvent | ethanol | 50 ml | C(C)O | C2H6O
product | 6-[[1-(Ethoxycarbonyl)-3-phenylpropyl]amino]octahydro-1-oxo-5-oxothiazolo[3,2-a]azepine-3-carboxylic acid | C(C)OC(=O)C(CCC1=CC=CC=C1)NC1CCCC2N(C1=O)C(CS2=O)C(=O)O | C21H28N2O6S
